US07705034B2
Using general procedure B, 6-methyl-benzo[b]thiophene was reacted with benzaldehyde to give (6-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol as an off-white solid. MS: 236.9 ([M+H—H2O]+).

reactant | 6-methyl-benzo[b]thiophene | CC=1C=CC2=C(SC=C2)C1 | C9H8S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (6-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol | CC=1C=CC2=C(SC(=C2)C(O)C2=CC=CC=C2)C1 | C16H14OS
